US08278319B2
Step-9: Dimethyl 3,3′-(1-(tert-butoxycarbonyl)piperidine-4,4-diyl)dipropanoate
The a stirred solution of dimethyl 3,3′-(piperidine-4,4-diyl)dipropanoate hydrochloride (0.44 mmol, 1.0 eq) in DCM (2 ml) were added TEA (6.0 eq) and (Boc)2O (1.5 eq) at 0° C. The mixture was then stirred at room temperature overnight. The reaction mixture was diluted with DCM and washed with water and brine. The organic layer was dried over Na2SO4, concentrated to dryness and purified by column chromatography. Yield: 40%

reactant | dimethyl 3,3′-(piperidine-4,4-diyl)dipropanoate hydrochloride | 0.44 mmol, 1.0 eq | Cl.N1CCC(CC1)(CCC(=O)OC)CCC(=O)OC
reactant | (Boc)2O | 1.5 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | Dimethyl 3,3′-(1-(tert-butoxycarbonyl)piperidine-4,4-diyl)dipropanoate | Yield: 40% | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCC(=O)OC)CCC(=O)OC | C18H31NO6
